US05888423
5.7 g of 4-[trans-4-(1,4-dioxaspiro[4,5]dec-8-yl)cyclohexyl]-2-fluorobenzoic acid were added to a suspension of 3 g of lithium aluminium hydride in 100 ml of dry ether and, after stirring under reflux for 23 hrs., cooled to 0° C., treated cautiously with 25 ml of water and then 100 ml of 3N sulfuric acid. The reaction mixture was thereupon extracted with ether, the organic phase was dried over sodium sulfate, filtered and the filtrate was evaporated. Chromatography of the residue on silica gel with methylene chloride/acetone (95:5) gave 3.1 g of 4-[trans-4-(1,4-dioxaspiro[4,5]dec-8-yl)cyclohexyl]-2-fluorobenzyl alcohol as colorless crystals.

reactant | 4-[trans-4-(1,4-dioxaspiro[4,5]dec-8-yl)cyclohexyl]-2-fluorobenzoic acid | 5.7 g | O1CCOC12CCC(CC2)[C@@H]2CC[C@H](CC2)C2=CC(=C(C(=O)O)C=C2)F | C21H27FO4
reactant | lithium aluminium hydride | 3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 25 ml | O | H2O
reactant | sulfuric acid | 3N, 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | 100 ml | CCOCC | C4H10O
product | 4-[trans-4-(1,4-dioxaspiro[4,5]dec-8-yl)cyclohexyl]-2-fluorobenzyl alcohol | 3.1 g | O1CCOC12CCC(CC2)[C@@H]2CC[C@H](CC2)C2=CC(=C(CO)C=C2)F | C21H29FO3
